US05736539
N-Methoxy-N-methyl 2(R)-tert-butoxycarbonylamino-3-triphenylmethylthiopropionamide
The title compound was synthesized essentially according to the procedure described by O. P. Goel, U. Krolls, M. Stier, and S. Kesten in Organic Syntheses, 1988, 67, 69-75. Thus N,O-dimethyl-hydroxylamine hydrochloride (1.05 g, 10.82 mmol) and N-methyl-morpholine (1.22 mL, 11.14 mmol) were stirred in dichloromethane (6 mL) under nitrogen at 0° C. for 30 min. In a separate flask, 2(R)-tert-butoxycarbonylamino-3-triphenylmethyl-thiopropionic acid (5.02 g, 10.82 mmol) in tetrahydrofuran (11.5 mL, dry) and methylene chloride (45 mL) were cooled to -20° C., and N-methylmorpholine (1.22 mL, 11.14 mmol) and isopropylchloroformate (10.82 mL of 1M solution in toluene) were added via syringe, maintaining the temperature less than -15° C. The reaction was stirred at -30° C., and the suspension of N,O-dimethylhydroxylamine hydrochloride and N-methylmorpholine in methylene chloride added all at once. The cooling bath was removed and the reaction allowed to warm to room temperature over 4 h. The reaction was cooled to 0° C. and quickly washed with two portions of 0.2N hydrochloric acid, two portions of 0.5N sodium hydroxide, and saturated sodium chloride solution. The organic phase was dried over magnesium sulfate, filtered and reduced in vacuo to obtain the title compound as a clear gum, 5.50 g. NMR (300 MHz, DMSO-d6) δ 7.30 (15H, m), 4.43 (1H, br s), 3.56 (3H, s), 2.99 (3H, s), 2.30 (2H, m), 1.36 (9H, s).

reactant | N,O-dimethyl-hydroxylamine hydrochloride | 10.82 mmol, 1.05 g | Cl.CNOC
reactant | N-methyl-morpholine | 11.14 mmol, 1.22 mL | CN1CCOCC1 | C5H11NO
reactant | 2(R)-tert-butoxycarbonylamino-3-triphenylmethyl-thiopropionic acid | 10.82 mmol, 5.02 g | C(C)(C)(C)OC(=O)N[C@@H](C(=S)O)CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO3S
reactant | N-methylmorpholine | 11.14 mmol, 1.22 mL | CN1CCOCC1 | C5H11NO
reactant | isopropylchloroformate | 1M, 10.82 mL | C(C)(C)OC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 11.5 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-methyl 2(R)-tert-butoxycarbonylamino-3-triphenylmethylthiopropionamide | CON(C([C@@H](CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=S)C | C29H34N2O3S
